US05747518
2) 3-amino-2-(4-methoxyphenyl)thiophene
The same procedures as described in Example 3 were carried out except that 3-nitro-2-(4-chlorophenyl)thiophene was replaced by 3-nitro-2-(4-methoxyphenyl)thiophene. The yield was 79%. 1 H-NMR(CDCl3, δ value):3.77(2H, brs), 3.83(3H, s), 6.65(1H, d, J=5.9), 6.96(2H, d, J=8.8), 7.07(1H, d, J=5.9), 7.43(2H, d, J=8.8)

reactant | 3-nitro-2-(4-chlorophenyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H6ClNO2S
reactant | 3-nitro-2-(4-methoxyphenyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)OC | C11H9NO3S
product | 3-amino-2-(4-methoxyphenyl)thiophene | yield was 79% | NC1=C(SC=C1)C1=CC=C(C=C1)OC | C11H11NOS
